US05573772
Adenosine (ADO) was obtained from Sigma. 8-(p-Sulfophenyl)-theophylline (SPT) and 8-cyclopentyl-1,3-dipropylxanthine (DPCPX) were purchased from Research Biochemicals Inc., Natick, Mass. N6 -(2-(4-aminophenyl)ethyl) adenosine (APNEA) was provided by Dr. Ray A. Olsson, Department of Internal Medicine, the University of South Florida, Tampa, Fla.

reactant | Adenosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O4
reactant | 8-(p-Sulfophenyl)-theophylline | S(=O)(=O)(O)C1=CC=C(C=C1)C1=NC=2N(C(N(C)C(C2N1)=O)=O)C | C13H12N4O5S
reactant | 8-cyclopentyl-1,3-dipropylxanthine | C1(CCCC1)C1=NC=2N(C(N(C(C2N1)=O)CCC)=O)CCC | C16H24N4O2
product | N6 -(2-(4-aminophenyl)ethyl) adenosine | NC1=CC=C(C=C1)CCNC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C18H22N6O4
